US05244889
The major isomer of ethyl 3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane-10-carboxylate (0.68 g, 2.0 mmol) is dissolved in t-butanol (10 mL). Sodium borohydride (0.23 g, 6.0 mmol) is added and the reaction is warmed to 55° C. Methanol (2.0 mL) is added over a twenty minute period, and the reaction is kept at 55° C. for an additional 1 hour. The reaction is then partitioned between ethyl acetate and water, and the aqueous phase is extracted several times with ethyl acetate. The combined organic layers are dried (MgSO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (50% ethyl acetate/hexane) to give 3-t-butoxycarbonylmethyl-10-hydroxymethyl-2-oxo-1-azacyclodecane, MS: M+1=300.

reactant | ethyl 3-t-butoxycarbonylmethyl-2-oxo-1-azacyclodecane-10-carboxylate | 2.0 mmol, 0.68 g | C(C)(C)(C)OC(=O)CC1C(NC(CCCCCC1)C(=O)OCC)=O | C18H31NO5
reactant | Sodium borohydride | 6.0 mmol, 0.23 g | [BH4-].[Na+]
reactant | Methanol | 2.0 mL | CO | CH4O
solvent | t-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | 3-t-butoxycarbonylmethyl-10-hydroxymethyl-2-oxo-1-azacyclodecane | C(C)(C)(C)OC(=O)CC1C(NC(CCCCCC1)CO)=O | C16H29NO4
